US08563742B2
To a fluorobenzene (5 mL) solution of cyclohexene (82 mg, 1 mmol) at RT was added acetyl chloride (86 mg, 1.1 mmol) and then the reaction was cooled in an ice bath. Aluminum chloride (150 mg, 1.1 mmol) was slowly added to the solution, then the reaction was slowly allowed to warm to room temperature, was stirred at room temperature for 24 h and was then heated to 80° C. for 1 h. The reaction mixture was cooled to room temperature and was then slowly added to ice cold water. The mixture was extracted with ethyl acetate and the organic portion was dried over sodium sulfate, concentrated under vacuum, and purified on a silica gel column to afford 1-[4-(4-fluoro-phenyl)-cyclohexyl]-ethanone containing about 30% of another unidentified substance (176 mg).

reactant | fluorobenzene | 5 mL | FC1=CC=CC=C1 | C6H5F
reactant | cyclohexene | 1 mmol, 82 mg | C1=CCCCC1 | C6H10
reactant | acetyl chloride | 1.1 mmol, 86 mg | C(C)(=O)Cl | C2H3ClO
reactant | Aluminum chloride | 1.1 mmol, 150 mg | [Cl-].[Al+3].[Cl-].[Cl-]
product | 1-[4-(4-fluoro-phenyl)-cyclohexyl]-ethanone | about 30% | FC1=CC=C(C=C1)C1CCC(CC1)C(C)=O | C14H17FO
